US05023232
2-Methoxy-9-methylene-2,6,6-trimethyl-bicyclo[3.3.1]nonane
120 g (0.563 mol) of dihydro-α-ionone, 65 g (0.612 mol) of trimethyl orthoformate and 200 ml of methylene chloride are treated dropwise while stirring during 15 minutes with a solution of 8 g of boron trifluoride etherate in 60 ml of methylene chloride and the mixture is subsequently held under reflux for 105 minutes. The reaction mixture is cooled and poured into 500 ml of a 5% aqueous potassium hydroxide solution. After the addition of 500 ml of methylene chloride and vigorous intermixing the phases are separated, the organic phase is washed with water and the solvent is distilled off. The residue (197.1 g) is fractionated in a vacuum over a 15 cm Widmer column. There are obtained 100.2 g of product of b.p. 44°-47°/0.06-0.07 mbar (yield 87% of theory based on pure dihydro-α-ionone) as a colorless liquid which contains 72.3% of exo isomer and 20.1% of endo isomer of the desired bicyclo-nonane.

reactant | dihydro-α-ionone | 0.563 mol, 120 g | CC1=CCCC(C1CCC(=O)C)(C)C | C13H22O
reactant | trimethyl orthoformate | 0.612 mol, 65 g | C(OC)(OC)OC | C4H10O3
reactant | boron trifluoride etherate | 8 g | B(F)(F)F.CCOCC
reactant | potassium hydroxide | [OH-].[K+]
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-Methoxy-9-methylene-2,6,6-trimethyl-bicyclo[3.3.1]nonane | 100.2 g, yield 87% | COC1(C2CCC(C(CC1)C2=C)(C)C)C | C14H24O
